US05597823
3-Amino-2-carbomethoxy-5-methoxythieno[3,2-b]pyridine
A solution of 3-amino-2-carbomethoxy-5-chlorothieno[3,2-b]pyridine, prepared as described in Example 62A (5g, 21 mmol) and sodium methoxide (4.5 g, 82 mmol) in MeOH (150 mL) were refluxed for 18 h. The reaction was concentrated and partitioned between EtOAc and NaHCO3 solution. The EtOAc layer was dried (MgSO4), filtered, concentrated, and chromatographed (5:1 hex: EtOAc) to yield 2.5 g of the title compound: 1H NMR (300 MHz, CDCl3) δ3.80 (s, 3H), 4.02 (s, 3H), 6.05 (bs, 2H), 6.89 (d, 1H), 7.88 (d, 1H); MS (DCI/NH3) m/e 239 (M+H)+.

reactant | 3-amino-2-carbomethoxy-5-chlorothieno[3,2-b]pyridine | NC1=C(SC=2C1=NC(=CC2)Cl)C(=O)OC | C9H7ClN2O2S
reactant | sodium methoxide | 82 mmol, 4.5 g | C[O-].[Na+]
solvent | MeOH | 150 mL | CO | CH4O
product | 3-Amino-2-carbomethoxy-5-methoxythieno[3,2-b]pyridine | 2.5 g | NC1=C(SC=2C1=NC(=CC2)OC)C(=O)OC | C10H10N2O3S
